US08912353B2
In a 500 ml Schlenk flask, 60.5 g (0.5 mol) N-ethylaniline and 131 g (1.0 mol) di-isopropylaminosilane were stirred at ambient temperature under a nitrogen atmosphere for 24 hours. The relatively lower boiling point by-product di-isopropylamine was removed with vacuum at a pressure of 20 mmHg and room temperature (25° C.). The reaction mixture was stirred for another 24 hours. The end-product phenylethylaminosilane was obtained by vacuum distillation. The end-product was characterized by mass spectroscopy (MS) which is provided in FIG. 2 and shows, among other things, peaks at 151, 150, 136, 120, 106, 93, and 77. The molecular weight of the phenylethylaminosilane was 151.28.

reactant | N-ethylaniline | 0.5 mol, 60.5 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | di-isopropylaminosilane | 1.0 mol, 131 g | C(C)(C)N(C(C)C)[SiH3] | C6H17NSi
product | phenylethylaminosilane | C1(=CC=CC=C1)CCN[SiH3] | C8H13NSi
